US04137325
2-Amino-3,5-dimethylbenzamide.
Liquid phosgene (55 g.) is added to a stirred solution of 30.1 g. (0.182 mol.) of 2-amino-3,5-dimethylbenzoic acid in 300 ml. of dioxane. The temperature is raised to 40°-45° C. and held for 2 hr. The mixture is stirred overnight at room temperature and filtered. The filter cake is washed with diethyl ether, giving 33 g. (95%) of 6,8-dimethyl-2H-3, 1-benzoxazine-2,4(1H)-dione; m.p.>300° C. The isatoic anhydride is then added to 435 ml. of 1 M. NH4OH. The mixture is stirred overnight at room temperature, brought to reflux for 2 hr. cooled, filtered, and crystallized (EtOH), giving 13.4 g. (47%) of product, m.p. 162°-167° C.

reactant | phosgene | 55 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-amino-3,5-dimethylbenzoic acid | 0.182 mol | NC1=C(C(=O)O)C=C(C=C1C)C | C9H11NO2
reactant | 6,8-dimethyl-2H-3, 1-benzoxazine-2,4(1H)-dione | CC=1C=C(C2=C(C(OC(N2)=O)=O)C1)C | C10H9NO3
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | NH4OH | [NH4+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-3,5-dimethylbenzamide | NC1=C(C(=O)N)C=C(C=C1C)C | C9H12N2O
